US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-methyl-butyl)-amide
4-[4-(2-Aminoethyl)anilino]-N-isopentyl-1-piperidinecarboxamide formate (0.40 g, 1.05 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.427 g, 1.05 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.194 g, 0.26 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-isopentyl-1-piperidinecarboxamide formate | 1.05 mmol, 0.40 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCC(C)C)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.05 mmol, 0.427 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-methyl-butyl)-amide | 0.26 mmol, 0.194 g | CC(CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C | C28H42N4O4
